US06780996B2
To a mixture of sodium hydride (82 mg, 2.04 mmol) in 6 mL of tetrahydrofuran is added ethanethiol (77 mg, 1.12 mmol) in 6 mL of tetrahydrofuran. The reaction mixture is stirred at room temperature for 2 hours. A solution of 4-[(2,4-dichloro-5-methoxyphenyl)amino]-7-fluoro-6-methoxy-3-quinolinecarbonitrile (200 mg, 0.51 mmol) in 7 mL of tetrahydrofuran is added via syringe and the reaction mixture is heated at 70° C. for 5 hours, then cooled to room temperature. The reaction volume is reduced by concentration in vacuo and then partitioned between ethyl acetate and water. The aqueous layer is extracted with additional ethyl acetate and the organic layers are combined and washed with water. The organic layer is dried over magnesium sulfate, filtered and concentrated in vacuo. The residue is purified by flash column chromatography eluting with a gradient of 10% to 30% ethyl acetate in hexane to provide 154 mg of 4-[(2,4-dichloro-5-methoxyphenyl)amino]-7-ethylsulfanyl-6-methoxy-3-quinolinecarbonitrile, mp 212-214° C.

reactant | sodium hydride | 2.04 mmol, 82 mg | [H-].[Na+]
reactant | ethanethiol | 1.12 mmol, 77 mg | C(C)S | C2H6S
reactant | 4-[(2,4-dichloro-5-methoxyphenyl)amino]-7-fluoro-6-methoxy-3-quinolinecarbonitrile | 0.51 mmol, 200 mg | ClC1=C(C=C(C(=C1)Cl)OC)NC1=C(C=NC2=CC(=C(C=C12)OC)F)C#N | C18H12Cl2FN3O2
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 7 mL | O1CCCC1 | C4H8O
product | 4-[(2,4-dichloro-5-methoxyphenyl)amino]-7-ethylsulfanyl-6-methoxy-3-quinolinecarbonitrile | 154 mg | ClC1=C(C=C(C(=C1)Cl)OC)NC1=C(C=NC2=CC(=C(C=C12)OC)SCC)C#N | C20H17Cl2N3O2S
